US05780482
A mixture of 5-amino-2-phenoxypyridine (10.49 g) and diethyl ethoxymethylenemalonate (12.2 g) was boiled under reflux for 2.5 hours. The mixture was cooled to ambient temperature and water (50 ml) was added. The mixture was extracted with dichloromethane to give diethyl 2-(6-phenoxy-3-pyridylaminomethylene)malonate as an oil.

reactant | 5-amino-2-phenoxypyridine | 10.49 g | NC=1C=CC(=NC1)OC1=CC=CC=C1 | C11H10N2O
reactant | diethyl ethoxymethylenemalonate | 12.2 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | water | 50 ml | O | H2O
product | diethyl 2-(6-phenoxy-3-pyridylaminomethylene)malonate | O(C1=CC=CC=C1)C1=CC=C(C=N1)NC=C(C(=O)OCC)C(=O)OCC | C19H20N2O5
